US05965553
Trans-7-chloro-5-(l -naphthyl)-1-(4-(2-methylimidazol-1 -yl) butyl)-2-oxo-1,2,3,5-tetrahydro-4, 1 -benzoxazepine-3-acetonitrile
Trans-7-chloro-5-(1 -naphthyl)-1 -(4-iodobutyl)-2-oxo-1,2,3,5-tetrahydro-4,1 -benzoxazepine-3-acetonitrile (575 mg, 1.06 mmol), 2-methylimidazole (87 mg, 1.06 mmol) and potassium carbonate (146 mg, 1.06 mmol) were dissolved in DMF (5 ml) and the resulting solution stirred at 25° C. for 72 hours. Ethyl acetate was added and the solution washed with water (4×). The organic layer was dried (MgSO4), concentrated under reduced pressure and purified by flash column chromatography (ethyl acetate/diethylamine 95:5) to give the title compound (250 mg, 47%) as a colorless foam.

reactant | Trans-7-chloro-5-(1 -naphthyl)-1 -(4-iodobutyl)-2-oxo-1,2,3,5-tetrahydro-4,1 -benzoxazepine-3-acetonitrile | 1.06 mmol, 575 mg | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CCCCI)=O)CC#N)C2=CC=CC3=CC=CC=C23)C1 | C25H22ClIN2O2
reactant | 2-methylimidazole | 1.06 mmol, 87 mg | CC=1NC=CN1 | C4H6N2
reactant | potassium carbonate | 1.06 mmol, 146 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | Trans-7-chloro-5-(l -naphthyl)-1-(4-(2-methylimidazol-1 -yl) butyl)-2-oxo-1,2,3,5-tetrahydro-4, 1 -benzoxazepine-3-acetonitrile | 250 mg, 47% | ClC=1C=CC2=C([C@H](O[C@@H](C(N2CCCCN2C(=NC=C2)C)=O)CC#N)C2=CC=CC3=CC=CC=C23)C1 | C29H27ClN4O2
